US09065058B2
Step 1: Synthesis of 3,6-Di-(dibenzothiophen-4-yl)-9-phenyl-9H-carbazole (abbreviation: DBT2PC-II)
To a 200-mL three-neck flask were added 2.0 g (5.0 mmol) 3,6-dibromo-9-phenyl-9H-carbazole, 3.2 g (11 mmol) of dibenzothiophene-4-boronic acid, 10 mg (0.1 mmol) of palladium(II) acetate, 30 mg (0.1 mmol) of tri(ortho-tolyl)phosphine, 50 mL of toluene, 5 mL of ethanol, and 7.5 mL of a 2 mol/L aqueous potassium carbonate solution. This mixture was degassed while being stirred under reduced pressure, and then heated and stirred at 90° C. for 6 hours in a nitrogen atmosphere to be reacted. After the reaction, this reaction mixture solution was cooled to room temperature, and then filtered to give a residue while being washed with water, ethanol, toluene, and hexane in this order. The residue was purified by silica gel column chromatography (a developing solvent in which the toluene/hexane ratio was 1:3). The fraction thus obtained was concentrated, acetone and ethanol were added thereto, and the mixture was irradiated with ultrasonic waves. Then, recrystallization gave 1.4 g of a white powder in 47% yield. The synthesis scheme of Step 1 is illustrated in (C-7).

reactant | 3,6-dibromo-9-phenyl-9H-carbazole | 5.0 mmol, 2.0 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)C1=CC=CC=C1 | C18H11Br2N
reactant | dibenzothiophene-4-boronic acid | 11 mmol, 3.2 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)B(O)O | C12H9BO2S
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 2 mol/L | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 0.1 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri(ortho-tolyl)phosphine | 0.1 mmol, 30 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3,6-Di-(dibenzothiophen-4-yl)-9-phenyl-9H-carbazole | 1.4 g, 47% yield | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C=3C=CC=2N(C1=CC=C(C=C1C2C3)C3=CC=CC2=C3SC3=C2C=CC=C3)C3=CC=CC=C3 | C42H25NS2
